US07132419B2
4-Methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-1-methyl-ethyl)-amide
A mixture of 4-methoxy-benzo[a]phenazine-11-carboxylic acid methyl ester (IV.1) (350 mg) and 1-dimethylamino-2-propylamine (2 mL)(commercially available) was heated to 110° C. under N2 for 4 hours. The reaction mixture was then cooled and the excess amine was removed in vacuo. The residue was then purified using flash chromatography (silica, ethyl acetate and then 25% methanol in ethyl acetate) to yield the title compound as a yellow solid (164 mg).

reactant | 4-methoxy-benzo[a]phenazine-11-carboxylic acid methyl ester | 350 mg | COC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC | C19H14N2O3
reactant | 1-dimethylamino-2-propylamine | 2 mL | CN(CC(C)N)C | C5H14N2
product | 4-Methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-1-methyl-ethyl)-amide | 164 mg | CN(CC(C)NC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)C | C23H24N4O2
